US09085582B2
[(4S)-6-(4-Chlorophenyl)-1-methyl-8-phenyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]acetic acid (for a preparation see Intermediate 1) (29 mg) was dissolved in DMF (2 ml). DIPEA (23 μl), HATU (29.9 mg) and ethylamine hydrochloride (10.68 mg) were added to the reaction mixture. The reaction was stirred at room temperature overnight. The mixture was dissolved in ethyl acetate (10 ml) and washed with saturated hydrogen carbonate solution (5 ml). The organic phase was washed with water (5 ml) and brine (5 ml). The organic layer was dried and the solvent evaporated. The residue was chromatographed (0-5% methanol:DCM) and then further purified by MDAP (formate modifier) to give 2-[(4S)-6-(4-chlorophenyl)-1-methyl-8-phenyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]-N-ethylacetamide (7.5 mg) as a white oil. LCMS (formate): MH+ 470/472, RT 1.10 min

reactant | [(4S)-6-(4-Chlorophenyl)-1-methyl-8-phenyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]acetic acid | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)C3=CC=CC=C3)C(=NN2)C)CC(=O)O | C25H19ClN4O2
reactant | DIPEA | 23 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 29.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ethylamine hydrochloride | 10.68 mg | Cl.C(C)N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2-[(4S)-6-(4-chlorophenyl)-1-methyl-8-phenyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]-N-ethylacetamide | 7.5 mg | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)C3=CC=CC=C3)C(=NN2)C)CC(=O)NCC | C27H24ClN5O
